US04262005
A mixture of 11.5 g 2-(2,4-dichlorophenylimino)imidazolidine 1.7 g sodium hydride (80 percent dispersion in oil) and 80 ml dry tetrahydrofuran was stirred and refluxed for one and a half hours, and a solution of 5.9 g isobutyryl chloride in 20 ml dry tetrahydrofuran was then added dropwise. The mixture was stirred and refluxed for five hours and then cooled and poured into iced water to give a solid which was dried over phosphorus pentoxide. Recrystallisation with charcoal from ethanol gave the novel compound 1-isobutyryl-2-(2,4-dichlorophenylimino)imidazolidine, melting point 147°-148° C.

reactant | 2-(2,4-dichlorophenylimino)imidazolidine | 11.5 g | ClC1=C(C=CC(=C1)Cl)N=C1NCCN1 | C9H9Cl2N3
reactant | isobutyryl chloride | 5.9 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 1-isobutyryl-2-(2,4-dichlorophenylimino)imidazolidine | C(C(C)C)(=O)N1C(NCC1)=NC1=C(C=C(C=C1)Cl)Cl | C13H15Cl2N3O
